US08357703B2
a) 3-Butyl-isoxazole-4-carboxylic acid ethyl ester
As described for example 1a except using valeraldehyde (12.4 mL, 116 mmol) instead of butyraldehyde, the penatnal oxime intermediate product (11.7 g, 99%) was obtained as a yellow solid and as a mixture of cis and trans isomers that was used directly without further purification. MS (EI): m/e=101.0 [M]+. Then as described for example 1b, except using (E and/or Z)-pentanal oxime (11.4 g, 113 mmol) instead of (E and/or Z)-butanal oxime, and using ethyl 3,3-dimethylaminoacrylate instead of ethyl (E)-3-(1-pyrrolidino)-2-butenoate, the title compound (13.6 g, 61%) was obtained as a yellow liquid after purification by chromatography (silica, 0 to 10% ethyl acetate in heptane). MS: m/e=198.1 [M+H]+.

reactant | pentanal oxime | 113 mmol, 11.4 g | C(CCCC)=NO | C5H11NO
reactant | butanal oxime | C(CCC)=NO | C4H9NO
reactant | ethyl 3,3-dimethylaminoacrylate | CNC(=CC(=O)OCC)NC | C7H14N2O2
product | 3-Butyl-isoxazole-4-carboxylic acid ethyl ester | 13.6 g, 61% | C(C)OC(=O)C=1C(=NOC1)CCCC | C10H15NO3
